US04567272
2-(3-hydroxyphenylamino)-6-methoxy-3-nitropyridine
A mixture of 188.6 g (1 mole) of 2-chloro-6-methoxy-3-nitropyridine and 262 g (2.4 mole) of m-aminophenol is heated in 500 ml of methanol gradually up to the reflux. After 2 hours of heating time, the mixture is cooled down, 1000 ml of water are stirred in, the crystals formed are filtered off by suction and are thoroughly washed with water. The compound is obtained in the form of orange colored crystals with a melting point of 156°-8° C. and in a yield of 97.7% of theory.

reactant | 2-chloro-6-methoxy-3-nitropyridine | 1 mole, 188.6 g | ClC1=NC(=CC=C1[N+](=O)[O-])OC | C6H5ClN2O3
reactant | m-aminophenol | 2.4 mole, 262 g | NC=1C=C(C=CC1)O | C6H7NO
reactant | water | 1000 ml | O | H2O
solvent | methanol | 500 ml | CO | CH4O
product | 2-(3-hydroxyphenylamino)-6-methoxy-3-nitropyridine | yield of 97.7% | OC=1C=C(C=CC1)NC1=NC(=CC=C1[N+](=O)[O-])OC | C12H11N3O4
